US05053072
2.2 g of water are added dropwise at 30 C to 40° C. to a solution of 19.2 g of 2-ethoxyphenoxysulfonyl isocyanate in 150 ml of tetrachloromethane. The mixture is stirred at room temperature until the evolution of carbon dioxide has ceased and cooled to 0° C., the product is filtered off with suction, and the filter residue is washed with ice-cold tetrachloromethane. Drying in vacuo gives 16 g of 2-ethoxyphenyl sulfamate of melting point 62°-65° C.

reactant | water | 2.2 g | O | H2O
reactant | 2-ethoxyphenoxysulfonyl isocyanate | 19.2 g | C(C)OC1=C(OS(=O)(=O)N=C=O)C=CC=C1 | C9H9NO5S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | tetrachloromethane | 150 ml | ClC(Cl)(Cl)Cl | CCl4
product | 2-ethoxyphenyl sulfamate | 16 g | S(N)(OC1=C(C=CC=C1)OCC)(=O)=O | C8H11NO4S
